US08859549B2
A mixture of ethyl 2-(6-methoxynicotinoyl)benzoate (0.496 g, 1.74 mmol) and hydrazine hydrate (0.39 mL, 6.9 mmol) in ethanol (6 mL) was stirred at 80° C. for 2 hours, concentrated, and azeotroped with PhMe to give crude 4-(6-methoxypyridin-3-yl)phthalazin-1(2H)-one, which was used without purification.

reactant | ethyl 2-(6-methoxynicotinoyl)benzoate | 1.74 mmol, 0.496 g | COC1=NC=C(C(=O)C2=C(C(=O)OCC)C=CC=C2)C=C1 | C16H15NO4
reactant | hydrazine hydrate | 6.9 mmol, 0.39 mL | O.NN
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | 4-(6-methoxypyridin-3-yl)phthalazin-1(2H)-one | COC1=CC=C(C=N1)C1=NNC(C2=CC=CC=C12)=O | C14H11N3O2
